US04599344
1-(4-Chloro-3-nitrophenyl)-2-[(3-oxo-1-azabicyclo[2.2.2]oct-2-yl)methyl]-1,3-butanedione hydrochloride
In a manner similar to Example XXV react 1-(4-chloro-3-nitrophenyl)-1,3-butanedione with 2-methylene-3-quinuclidinone in acetone to provide the title compound.

reactant | 1-(4-chloro-3-nitrophenyl)-1,3-butanedione | ClC1=C(C=C(C=C1)C(CC(C)=O)=O)[N+](=O)[O-] | C10H8ClNO4
reactant | 2-methylene-3-quinuclidinone | C=C1N2CCC(C1=O)CC2 | C8H11NO
solvent | acetone | CC(=O)C | C3H6O
product | 1-(4-Chloro-3-nitrophenyl)-2-[(3-oxo-1-azabicyclo[2.2.2]oct-2-yl)methyl]-1,3-butanedione hydrochloride | Cl.ClC1=C(C=C(C=C1)C(C(C(C)=O)CC1N2CCC(C1=O)CC2)=O)[N+](=O)[O-] | InChI=1S/C18H19ClN2O5.ClH/c1-10(22)13(9-16-18(24)11-4-6-20(16)7-5-11)17(23)12-2-3-14(19)15(8-12)21(25)26;/h2-3,8,11,13,16H,4-7,9H2,1H3;1H
